US05142056
A. N-(3-Phenylpropyl)valine Benzyl Ester
A mixture of dihydrocinnamaldehyde (7 mmol), valine benzyl ester dihydrochloride (7 mmol), anhydrous sodium acetate (0.7 g, 21 mmol), and sodium cyanoborohydride (11 mmol) in 200 mL of isopropyl alcohol was stirred at ambient temperature. After 16 h, an additional 0.2 g portion of sodium cyanoborohydride was added and stirring was continued for 4.5 h. After removal of the solvent in vacuo, the residue was taken up in ethyl acetate, washed sequentially with saturated aqueous NaHCO3 and saturated brine, dried over MgSO4, and concentrated. Silica gel chromatography gave the desired compound.

reactant | dihydrocinnamaldehyde | 7 mmol | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | valine benzyl ester dihydrochloride | 7 mmol | Cl.Cl.C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O
reactant | sodium acetate | 21 mmol, 0.7 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 11 mmol | C(#N)[BH3-].[Na+]
solvent | isopropyl alcohol | 200 mL | C(C)(C)O | C3H8O
product | N-(3-Phenylpropyl)valine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NCCCC1=CC=CC=C1)C(C)C)=O | C21H27NO2
